US05602277
EXAMPLE 27 4-(Methylaminocarbonyl)benzoic acid.
Methyl 4-(methylaminocarbonyl)benzoate (1.9 g, 0.0098 mol) was added to 10 mL 1.5M NaOH (1.5 eq) and 30 mL water in a 125-mL Erlenmeyer flask. The suspension was stirred for 1 h at room temperature. The solid gradually dissolved during this time. The solution was filtered and acidified to produce a white solid. The solid was removed by filtration, washed twice with water, and dried in vacuo to give 1.60 g (90%) of the title compound, mp 270° C.

reactant | Methyl 4-(methylaminocarbonyl)benzoate | 0.0098 mol, 1.9 g | CNC(=O)C1=CC=C(C(=O)OC)C=C1 | C10H11NO3
reactant | NaOH | 1.5M, 10 mL, 1.5 eq | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
product | 4-(Methylaminocarbonyl)benzoic acid | 1.60 g, 90% | CNC(=O)C1=CC=C(C(=O)O)C=C1 | C9H9NO3
